US06562853B2
Under a nitrogen environment, 109 g of n-propyltriphenylphosphonium bromide was suspended in 200 ml of tetrahydrofuran and 31.6 g of potassium-t-butoxide was added thereto over 5 minutes at 0° C. The mixture was then stirred at 0 to 5° C. for 1 hour. To the mixture, there was eye-dropped at 0 to 5° C. over 30 minutes, a solution in which 40.0 g of methyl 2,2-dimethyl-3-formylcyclopropanecarboxylate, as produced in Reference Example 1 above, was dissolved in 40 ml of tetrahydrofuran. The resulting reaction mixture was then stirred for 3 hours at 0 to 5° C. Subsequently, 24.6 g of an aqueous 50% sodium hydroxide solution and 40 ml of methanol were added to the reaction mixture. The resulting reaction mixture was stirred for 3 hours at 60° C. After the reaction mixture was allowed to cool to room temperature, 150 ml of toluene and 100 ml of ice water were then poured into the reaction mixture to separate the reaction mixture into an aqueous layer and an organic layer. After the aqueous layer was extracted therefrom, 100 ml of a 20% hydrochloric acid solution was added the aqueous layer. The resulting aqueous layer was then extracted twice with 300 ml of toluene. After the organic layers therefrom were combined, the resulting mixture was dried with anhydrous magnesium sulfate and concentrated under reduced pressure to provide 35 g of 2,2-dimethyl-3-(1-butenyl)cyclopropanecarboxylic acid. In the isolated 2,2-dimethyl-3-(1-butenyl)cyclopropanecarboxylic acid, the molar ratio of the (Z) isomer thereof at the 1-butenyl group to the (E) isomer thereof at the 1-butenyl group was 8:1.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 40 ml | CO | CH4O
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-3-(1-butenyl)cyclopropanecarboxylic acid | 35 g | CC1(C(C1C=CCC)C(=O)O)C | C10H16O2
